US07265149B2
In analogy to the procedure described in example 1 f], [rac]-2-{6-[2-(2,2,2-trifluoro-ethyl)-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-propionic acid ethyl ester was treated with LiOH to obtain [rac]-2-{6-[2-(2,2,2-trifluoro-ethyl)-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-propionic acid as colorless foam.

reactant | [rac]-2-{6-[2-(2,2,2-trifluoro-ethyl)-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-propionic acid ethyl ester | C(C)OC(C(C)N1C=CC2=CC=C(C=C12)OCC=1N(N=C(C1)C1=CC=C(C=C1)OC(F)(F)F)CC(F)(F)F)=O | C26H23F6N3O4
reactant | LiOH | [Li+].[OH-]
product | [rac]-2-{6-[2-(2,2,2-trifluoro-ethyl)-5-(4-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-indol-1-yl}-propionic acid | FC(CN1N=C(C=C1COC1=CC=C2C=CN(C2=C1)C(C(=O)O)C)C1=CC=C(C=C1)OC(F)(F)F)(F)F | C24H19F6N3O4
